US05516795
A flask was charged with potassium hydride (0.3 g, 35% oil dispersion, 2.62 mmol) and dry THF (1.5 mL) under a stream of nitrogen. A solution of 3-(N-methyl-p-aminobenzenethioxy)bromobenzene (0.50 g, 1.71 mmol), prepared as in step 4, in dry THF was added via syringe. When gas evolution ceased, allyl bromide (0.38 mL, 4.27 mmol, passed through a neutral alumina pad before addition) was added in a single portion, followed by dry DMF (3.4 mL). After 15 min the reaction was quenched with isopropanol and partitioned between saturated aqueous NH4C1 and ethyl acetate. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed twice with brine, dried over MgSO4, filtered, and concentrated in vacuo to give 0.91 g of crude product. Purification by chromatography on silica gel (5% ethyl acetate:hexanes) provided pure 3-(N-allyl-N-methyl-p-aminobenzenethioxy)bromobenzene (0.43 g, 75%).

reactant | potassium hydride | 2.62 mmol, 0.3 g | [H-].[K+]
reactant | 3-(N-methyl-p-aminobenzenethioxy)bromobenzene | 1.71 mmol, 0.50 g | CNC1=CC=C(C=C1)SC=1C=C(C=CC1)Br | C13H12BrNS
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | DMF | 3.4 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 3-(N-allyl-N-methyl-p-aminobenzenethioxy)bromobenzene | 0.43 g, 75% | C(C=C)N(C1=CC=C(C=C1)SC=1C=C(C=CC1)Br)C | C16H16BrNS
